US06995143B2
B] 1-[(2-Chloroethoxy)methyl]-5-methyl-2,4(1H,3H)-pyrimidinedione
150 mg (0.75 mmol) 1-[(2-hydroxyethoxy)methyl]-5-methyl-2,4(1H,3H)-pyrimidinedione were dissolved in 10 ml pyridine and 1 g PS-triphenylphosphine resin (3 mmol/g) and 147 μl carbontetrachloride were added. The reaction was stirred at room temperature for 3 days. The reaction mixture was diluted with a mixture of ethyl acetate and methanol and centrifuged. The supernatant was decanted and the solvent was evaporated under reduced pressure. The residue, dissolved in ethyl acetate and a small amount of methanol, was purified by flash chromatography on silica gel (ethyl acetate). The fractions containing the product were pooled and the volume was reduced to about 3 ml. Upon addition of hexane the product crystallized to give 97 mg of white crystals. MS (ISP): 217.1 (M−H+). 1H-NMR (DMSO-d6): 1.77 (d, 3H), 3.69–3.77 (m, 4H), 5.10 (s, 2H), 7.59 (d, 1H), 11,32 (s, br, 1H).

reactant | 1-[(2-hydroxyethoxy)methyl]-5-methyl-2,4(1H,3H)-pyrimidinedione | 0.75 mmol, 150 mg | OCCOCN1C(NC(C(=C1)C)=O)=O | C8H12N2O4
reactant | triphenylphosphine resin | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | carbontetrachloride | 147 μl | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 1-[(2-Chloroethoxy)methyl]-5-methyl-2,4(1H,3H)-pyrimidinedione | 97 mg | ClCCOCN1C(NC(C(=C1)C)=O)=O | C8H11ClN2O3
